US05248825
Mix 4-dimethylaminobenzaldehyde (3.3 g, 22 mmol), sodium borohydride (830 mg, 22 mmol) and absolute ethanol (25 mL). Stir at room temperature until the reaction is complete, pour onto dilute hydrochloric acid and extract into ethyl acetate. Separate the organic phase and extract the aqueous phase with ethyl acetate (2×). Combine the organic phases and dry (MgSO4). Evaporate the solvent in vacuo and purify by silica gel chromatography to give 4-(dimethylamino)benzyl alcohol.

reactant | 4-dimethylaminobenzaldehyde | 22 mmol, 3.3 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | sodium borohydride | 22 mmol, 830 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(dimethylamino)benzyl alcohol | CN(C1=CC=C(CO)C=C1)C | C9H13NO
